US06274593B1
6-Hydroxy-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline
A mixture of 6-methoxy-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline (1.18 g, 2.8 mmol) and dichloromethane (50 ml) was treated dropwise with a solution of boron tribromide in dichloromethane (1M; 8.4 ml). The mixture was stirred at 20° C. for 18 h, then poured into a mixture of ice (100 g) and 0.880 ammonia (100 ml). Resulting mixture was extracted with dichloromethane (3×50 ml) and the combined extracts were dried (Na2SO4) and evaporated in vacuo. The residue was triturated with ether to give the title compound (0.86 g, 77%) as a yellow solid.

reactant | 6-methoxy-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 2.8 mmol, 1.18 g | COC=1C=C2CCN(CC2=CC1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H30N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | ammonia | 100 ml | N | H3N
solvent | dichloromethane | 1M, 8.4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-Hydroxy-2-(4-(4-phenylbenzoylamino)butyl)-1,2,3,4-tetrahydroisoquinoline | 0.86 g, 77% | OC=1C=C2CCN(CC2=CC1)CCCCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H28N2O2
